US04259338
A solution of 44.2 g (0.1 mol) of diethyl 2-(6,7,8,9-tetrahydro-2-dibenzofuranyl)-4-hydroxy-4-methyl-1,3-cyclohexanedicarboxylate in 250 ml of dioxan is added dropwise to a solution of 120 g (3 mols) of sodium hydroxide in 125 ml of water with 250 ml of ethanol at 90° in the course of 30 minutes. The reaction mixture is heated to 90° for 30 minutes and then concentrated to about 1/3rd of its volume by distilling off the solvents. After diluting the mixture with 750 ml of water, 350 ml of concentrated hydrochloric acid are added, with ice-water cooling. The crude acid which has precipitated is filtered off, washed thoroughly with water and dried. 3-(6,7,8,9-Tetrahydro-2-dibenzofuranyl)-glutaric acid is thus obtained as light yellow-brown crystals of melting point 165°-170°. A sample crystallised from ethanol/water melts at 169°-174°.

reactant | diethyl 2-(6,7,8,9-tetrahydro-2-dibenzofuranyl)-4-hydroxy-4-methyl-1,3-cyclohexanedicarboxylate | 0.1 mol, 44.2 g | C1=C(C=CC=2OC3=C(C21)CCCC3)C3C(CCC(C3C(=O)OCC)(C)O)C(=O)OCC | C25H32O6
reactant | sodium hydroxide | 3 mols, 120 g | [OH-].[Na+]
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | dioxan | 250 ml | O1CCOCC1 | C4H8O2
solvent | water | 125 ml | O | H2O
product | 3-(6,7,8,9-Tetrahydro-2-dibenzofuranyl)-glutaric acid | C1=C(C=CC=2OC3=C(C21)CCCC3)C(CC(=O)O)CC(=O)O | C17H18O5
